* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt level4 1 2 3 4 5
A1 2 N003 COM COM COM COM OTA COM OTA G=1u Iout=1m in={in} ink={ink} en={en} enk={enk} Vhigh=1e308 Vlow=-1e308
G1 COM PM Sense COM 1u
R2 PM COM 1Meg Noiseless
C1 PM COM {X*Cout/Avol}
R5 1 COM {Rin} noiseless
R10 AOL1 COM 1Meg Noiseless
DOI RO 5 LIM
I2 Railp 3 {1m*rail}
R11 Railp 3 1k
C5 Railp 3 1n
I3 4 Railn {1m*rail}
R13 Railn 4 1k
C6 Railn 4 1n
G11 COM RO Vlim COM {1/Ro}
R20 RO COM {Ro} Noiseless
C7 5 RO 1p
R23 N005 3 1Meg Noiseless
R24 N005 4 1Meg Noiseless
C8 N005 0 1
E1 COM 0 N005 0 1
R25 COM 0 1Meg Noiseless
R12 Vn COM 1
R14 COM Vp 1
BVout Vlim COM I=Uplim(Dnlim(V(Vp,Vn), {-IClaw}, 1m), {IClaw}, 1m)
B1 COM Vp I=IF(V(5,COM)>V(railp,COM), ((V(5,COM)-V(railp,COM))*{Gclaw}),0)
B2 COM Vn I=IF(V(5,COM)<V(railn,COM), ((V(railn,COM)-V(5,COM))*{Gclaw}),0)
C2 COM Vp 1n
C3 COM Vn 1n
R9 GRn COM 1 Temp=-273.15
R21 COM GRp 1 Temp=-273.15
BGR AOL1 COM I=Uplim(Dnlim(V(Grp,GRn), {-2*slew*Cout}, 1m), {2*slew*Cout}, 1m)
B3 COM GRp I=IF(V(Sense,COM)>{Grossp}, ((V(Sense,COM)-{Grossp})*{GGr}),0)
B4 COM GRn I=IF(V(Sense,COM)<{Grossn}, (({Grossn}-V(Sense,COM))*{GGr}),0)
C9 COM GRp 1p
C10 GRn COM 1p
G2 COM Sense AOL1 COM 1u
R22 Sense COM 1Meg Noiseless
G3 COM Vlim PM COM 1m
R26 Vlim COM 1k Noiseless
C11 2 1 {Cdiff}
C12 COM 2 {Ccm}
C13 COM 1 {Ccm}
R3 COM 2 {Rin} noiseless
C14 AOL1 COM {Cout}
V5 N003 1 {Vos}
R27 OTA COM 1Meg Noiseless
B5 COM AOL1 I=Uplim(Dnlim({Avol/1Meg}* V(OTA,COM), {-slew*Cout}, 1m), {slew*Cout}, 1m)
.param Cout={Avol/GBW/2/pi/1Meg}
.param Gclaw=2 Iclaw={2*slew*Cout}
.param Grossp={Ro*ilimit+50} Grossn={Ro*(-ilimit)-50} GGr=1
.param IClawp={2*Grossp*1m} IClawn={2*Grossn*1m}
.param X table(phimargin,29.4,3.5,32.1,2.9,33.8,2.6,35.8,2.3,38.1,2,40.9,1.7,43.2,1.5,45.9,
+1.3,49.2,1.1,53.2,0.9,58.2,0.7,64.7,0.5,73,0.3,86.1,0.05)
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={ilimit} Revilimit={ilimit} Epsilon=1u)
.param Avol=1Meg GBW=10Meg Slew=10Meg rail=0 Vos=0 ilimit=25m
.param en=0 enk=0 in=0 ink=0 phimargin=45 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
.ends level4